US08664216B2
N-Bromosuccinimide (4.50 g, 24.0 mmol) was added to 8-chloro-4H,6H-2,3,5,10b-tetraaza-benzo[e]azulene-5-carboxylic acid tert-butyl ester (7.00 g, 21.8 mmol) in tetrahydrofuran (140 ml). The mixture was stirred in boiling tetrahydrofuran for 2 hours. The solvent was removed in vacuo and the residue was purified by chromatography (50 g silica gel, heptane: ethylacetate 1:9 to 1:0) to yield 7.39 g (85%) 1-bromo-8-chloro-4H,6H-2,3,5,10b-tetraaza-benzo[e]azulene-5-carboxylic acid tert-butyl ester as white solid. MS m/e: 401 (M+H+).

reactant | N-Bromosuccinimide | 24.0 mmol, 4.50 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 8-chloro-4H,6H-2,3,5,10b-tetraaza-benzo[e]azulene-5-carboxylic acid tert-butyl ester | 21.8 mmol, 7.00 g | C(C)(C)(C)OC(=O)N1CC2=C(N3C=NN=C3C1)C=CC(=C2)Cl | C15H17ClN4O2
solvent | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
product | 1-bromo-8-chloro-4H,6H-2,3,5,10b-tetraaza-benzo[e]azulene-5-carboxylic acid tert-butyl ester | 7.39 g, 85% | C(C)(C)(C)OC(=O)N1CC2=C(N3C(=NN=C3C1)Br)C=CC(=C2)Cl | C15H16BrClN4O2
